US04307094
Methyl trans-2-(2-acetylthioethyl)-2,3,5,8-tetrahydro-1,3-dioxo-8-phenyl-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate was hydrolyzed in 2-M hydrochloric acid at 100° C. for 3.5 hours. Partial evaporation then gave in 43% yield trans-2,3,5,8-tetrahydro-2-(2-mercaptoethyl)-1,3-dioxo-8-phenyl-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid of melting point 153°-154° C.

reactant | Methyl trans-2-(2-acetylthioethyl)-2,3,5,8-tetrahydro-1,3-dioxo-8-phenyl-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate | C(C)(=O)SCCN1C(N2N([C@H](C=C[C@@H]2C(=O)OC)C2=CC=CC=C2)C1=O)=O | C18H19N3O5S
reactant | hydrochloric acid | Cl | ClH
product | trans-2,3,5,8-tetrahydro-2-(2-mercaptoethyl)-1,3-dioxo-8-phenyl-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid | 43% yield | SCCN1C(N2N([C@H](C=C[C@@H]2C(=O)O)C2=CC=CC=C2)C1=O)=O | C15H15N3O4S
